2113-08-10 02:45:00 Physician Resident Progress Note
Chief Complaint: sepsis/bacteremia
   24 Hour Events:
   - post dialysis on the floor, pt with SBP in 70s and HR in 90s, she had
   2L taken off in dialysis and only recent meds were vanco and epo.  No
   blood products given.
   - called back in to ICU and given total 1250 cc boluses over several
   hours.  Also started on low dose peripheral dopa.
   - pt scheduled for ortho OR (add on): debridement of joint and eval of
   synovial fluid for cell count, gram stain, cx, and crystals.
   - rheum was consulted; agree with OR.
   - zosyn d/c'ed
   - hypoglycemia episode with bg 30s
 given
 amp of D50 (pt not on ISS)
   - doppler US of fistula ordered, likely to be done today
   - ID recommends TEE to R/O endocarditis
   - A lined this AM
   - lethargic this AM, mildly improved with narcan
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2113-8-9**] 04:25 AM
   Infusions:
   Dopamine - 3 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2113-8-9**] 10:10 PM
   Morphine Sulfate - [**2113-8-10**] 12:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-8-10**] 02:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38
C (100.4
   HR: 114 (102 - 126) bpm
   BP: 134/62(60) {78/10(33) - 150/110(119)} mmHg
   RR: 25 (14 - 32) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 69.5 kg (admission): 69.5 kg
             Total In:
                                                                  1,209 mL
                                                                    437 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                  1,084 mL
                                                                    437 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,209 mL
                                                                    437 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 91%
   ABG: ////
   Physical Examination
   Gen
l: moderate distress and in pain, lethargic, confused
   Pulm: coarse crackles
   Ext: L wrist hot, exquisitely tender to touch, swollen
   Labs / Radiology
   110 K/uL
   10.9 g/dL
   68 mg/dL
   6.4 mg/dL
   21 mEq/L
   5.8 mEq/L
   32 mg/dL
   101 mEq/L
   133 mEq/L
   38.4 %
   5.6 K/uL
        [image002.jpg]
                             [**2113-8-8**]  12:30 AM
                             [**2113-8-9**]  01:37 AM
                             [**2113-8-9**]  02:00 AM
   WBC
   5.0
   5.6
   Hct
   40.8
   38.4
   Plt
   106
   110
   Cr
   5.1
   6.4
   Glucose
   85
   68
   Other labs: PT / PTT / INR:17.6/39.6/1.6, ALT / AST:13/33, Alk Phos / T
   Bili:99/1.6, Differential-Neuts:77.3 %, Lymph:14.4 %, Mono:5.7 %,
   Eos:2.3 %, LDH:198 IU/L, Ca++:7.3 mg/dL, Mg++:2.0 mg/dL, PO4:4.9 mg/dL
   Micro
 DFA neg, coag (+) Staph
   Assessment and Plan
   55 yo F with multiple medical problems including lymphocytic
   interstitial pneumonitis, pulmonary HTN, ESRD on HD, cardiomyopathy and
   emphysema on O2 at home, p/w right shoulder pain, months of progressive
   cough/SOB, fevers and found to have gram (+) bacteremia MSSA.
   # Gram (+) bacteremia MSSA
 ddx includes fistula infection vs line
   infection
   - 2 sets of blood cultures are positive now
 one has been speciated as
   coag+ s. aureus (c/w line infxn)
   - low grade fever, WBC increased
   - concerned about fistula infection as source, as her acute hypotensive
   episode occurred right after HD
   - can switch vanco to cefazolin as organism is MSSA
   - other blood cx pending
   - Doppler U/S of fistula to see if it is focus of infection
 will
   consider TEE
   - there was concern that her bacteremia could be seeding her joints.
   Plan for surgery and debridement/washing.
   - received new A line and CVL
   # Right shoulder pain and left wrist pain
 likely related to septic
   arthritis
   - continue sling/splint
   - continue Tylenol and morphine for pain
   - planned for left wrist evaluation in OR
   - as stated above, she may have a septic joint, will continue to
   monitor for any clinical changes
   - pt did have some increased pain last night
 this is partly what kept
   her from being transferred
   - f/u ortho recs
   # Cough/SOB
   - chest CT essentially unchanged except for new right basal atelectasis
   and increased diameter of the central pulmonary arteries
   - nasal swab was negative for flu
 droplet precautions d/c
   - continue ipratropium and xopenex nebs.
   - Oxygenating poorly, shows resp academia.  [**Month (only) 60**] be due to inc sedation
   from morphine.
   # ESRD
   - HD [**Month (only) **]
   - Renally dosing meds
   # Tachycardia
   - it seems like pt has a baseline tachycardia
   - she did become a little more tachycardic this evening (to the 130
 this is what prevented her from being transferred
   - EKG
s show no acute changes
   .
   # Cardiomyopathy (EF 30%)
   - will continue beta blocker
   - pt should be started on an ACE in future
   # Interstitial Pneumonitits/Pulmonary hypertension
   - will continue sildenafil
   # Asthma/COPD
   - will continue xopenex and albuterol
   # HIV ([**2113-7-20**] CD4 257, VL <48)
   - last CD4 was 257; last viral load was <48
   - will continue HAART and bactrim for PCP [**Name Initial (PRE) 1374**]
   # Coagulopathy
   - need to repeat INR
   # HCV
   - not treated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2113-8-9**] 08:55 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: ICU consent
   Disposition: ICU

2113-08-11 06:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2113-8-10**] 10:00 AM
 OR SENT - At [**2113-8-10**] 03:45 PM
 OR RECEIVED - At [**2113-8-10**] 05:00 PM
 BLOOD CULTURED - At [**2113-8-11**] 02:00 AM
   one set with am labs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2113-8-9**] 04:25 AM
   Cefazolin - [**2113-8-10**] 08:31 AM
   Clindamycin - [**2113-8-10**] 09:40 PM
   Gentamicin - [**2113-8-10**] 10:00 PM
   Metronidazole - [**2113-8-10**] 10:00 PM
   Nafcillin - [**2113-8-11**] 06:00 AM
   Infusions:
   Norepinephrine - 0.22 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-8-11**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.3
C (97.3
   HR: 109 (102 - 124) bpm
   BP: 88/66(76) {68/53(60) - 105/80(89)} mmHg
   RR: 18 (16 - 26) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 69.5 kg (admission): 69.5 kg
             Total In:
                                                                  3,020 mL
                                                                    503 mL
   PO:
             TF:
   IVF:
                                                                  2,707 mL
                                                                    503 mL
   Blood products:
                                                                    288 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,020 mL
                                                                    503 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 98%
   ABG: 7.26/55/85.[**Numeric Identifier 128**]/20/-2
   PaO2 / FiO2: 213
   Physical Examination
   GEN: In mild distress, cushingoid appearance
   HEENT: left eye with subconjunctival hemorrage, exudates on botheyes,
   O/P clear
   CV: unable to appreciate heart sounds given upper airway sounds,HR
   tachy and regular
   PULM: rhonchi throughout, with bibasilar rales and scattered wheezes
   with prominent upper airway sounds
   ABD: distended, firm without peritoneal signs, NABS
   EXT: no clubbing or cyanosis, 1+ pitting edema to mid
   calvesbilaterally. 1+ pedal pulses
   Labs / Radiology
   212 K/uL
   12.0 g/dL
   85 mg/dL
   6.2 mg/dL
   20 mEq/L
   4.6 mEq/L
   47 mg/dL
   97 mEq/L
   134 mEq/L
   43.0 %
   9.5 K/uL
        [image002.jpg]
                             [**2113-8-10**]  04:57 AM
                             [**2113-8-10**]  06:21 AM
                             [**2113-8-10**]  07:33 PM
                             [**2113-8-10**]  07:35 PM
                             [**2113-8-10**]  08:06 PM
                             [**2113-8-10**]  11:07 PM
                             [**2113-8-11**]  12:42 AM
                             [**2113-8-11**]  02:18 AM
                             [**2113-8-11**]  02:35 AM
                             [**2113-8-11**]  06:20 AM
   WBC
   9.2
   9.5
   Hct
   42.2
   43.0
   Plt
   183
   212
   Cr
   5.8
   6.2
   TCO2
   24
   23
   26
   27
   27
   28
   27
   26
   Glucose
   69
   86
   83
   103
   87
   85
   Other labs: PT / PTT / INR:21.6/41.9/2.0, ALT / AST:22/73, Alk Phos / T
   Bili:68/2.0, Differential-Neuts:77.3 %, Lymph:14.4 %, Mono:5.7 %,
   Eos:2.3 %, Lactic Acid:2.0 mmol/L, Albumin:3.0 g/dL, LDH:274 IU/L,
   Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:5.9 mg/dL
   Assessment and Plan
   55 yo F with multiple medical problems including lymphocytic
   interstitial pneumonitis, pulmonary HTN, ESRD on HD, cardiomyopathy and
   emphysema on O2 at home, p/w right shoulder pain, months of progressive
   cough/SOB, fevers and found to have gram (+) bacteremia MSSA and septic
   arthritis of left wrist
   # Gram (+) bacteremia MSSA
 Now believed to be from septic left wrist.
   - 2 sets of blood cultures are positive now - speciated as coag+ s.
   aureus
   - No organisms seen on gm stain of joint capsule washout sample, but 2+
   PMNs
   - Was switched to Nafcillin
   - other blood cx pending
   - Doppler U/S of fistula pending to eval for thrombus that could be
   showering septic emboli.
   - received new A line and CVL (femoral line)
   - Will discuss with ID need for TEE to determine duration of therapy
   given septic joint as this should be the same as endocarditis.
   #Firm distended abd:  Concern over abd initially raised by ID last
   evening.  On exam pts abd firm and distended, however no peritoneal
   signs.  No elevation in lactate, stat upright abd without evidence of
   free air under diaphragm.  Started on flagyl, PO vanc, and gentamycin
   per ID recs for concern over potential for toxic megacolon in setting
   of clinda without BM and gent for greater gm
 coverage.  Serial abd
   exams unchanged throughout night  without elevation in lactate.  Not
   concerned for acute abd
   - d/c clinda, Flagyl, vanc, gent
   - Will continue serial abd exams.
   - Will trend LFT
s and if rising will u/s biliary system.
   # Septic Left Wrist
s/p washout
   - continue sling/splint
   - f/u culture data
   - f/u plastics recs
   # Cough/SOB
   - continue ipratropium and xopenex nebs.
   - Hypopnea/hypoventilation likely from sedation given at washout.  As
   of exam this AM much improved
   - Oxygenating poorly overnight, shows resp academia from
   hypoventilation which may be from sedation after washout.  CXR with
   more atelectesis post procedure which may be contributing.
   # ESRD
   - HD MWF
   - Renally dosing meds
   # Tachycardia
   - it seems like pt has a baseline tachycardia
   - EKG
s show no acute changes
   .
   # Cardiomyopathy (EF 30%)
   - will continue beta blocker
   - pt should be started on an ACE in future
   # Interstitial Pneumonitits/Pulmonary hypertension
   - will continue sildenafil
   # Asthma/COPD
   - will continue xopenex and albuterol
   # HIV ([**2113-7-20**] CD4 257, VL <48)
   - last CD4 was 257; last viral load was <48
   - will continue HAART and bactrim for PCP [**Name Initial (PRE) 1374**]
   # Coagulopathy
   - need to repeat INR
   # HCV
   - not treated
   ICU Care
   Nutrition: Renal diet
   Glycemic Control:  none
   Lines:
   18 Gauge - [**2113-8-9**] 08:55 PM
   Arterial Line - [**2113-8-10**] 04:54 AM
   20 Gauge - [**2113-8-10**] 06:00 AM
   Multi Lumen - [**2113-8-10**] 10:00 AM (Need to D/C tomorrow)
   Prophylaxis:
   DVT: INR elevated
   Stress ulcer: none
   VAP:  none
   Comments:
   Communication: With Pt  Comments:
   Code status: Full
   Disposition: MICU

2113-08-12 05:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2113-8-11**] 04:00 PM
   U.S. of left wrist
 ULTRASOUND - At [**2113-8-11**] 06:09 PM
   Abdominal U.S.
   - dialyzed, 2 L removed
   - fistula U/S - read pending
   - abdominal U/S done
   - KUB normal
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2113-8-10**] 08:31 AM
   Clindamycin - [**2113-8-10**] 09:40 PM
   Gentamicin - [**2113-8-10**] 10:00 PM
   Metronidazole - [**2113-8-11**] 09:47 AM
   Nafcillin - [**2113-8-12**] 02:07 AM
   Infusions:
   Norepinephrine - 0.22 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-8-12**] 05:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.3
C (97.4
   HR: 108 (105 - 112) bpm
   BP: 92/70(79) {72/54(62) - 108/76(291)} mmHg
   RR: 21 (14 - 24) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 69.5 kg (admission): 69.5 kg
   Height: 64 Inch
             Total In:
                                                                  1,700 mL
                                                                    297 mL
   PO:
             TF:
   IVF:
                                                                  1,700 mL
                                                                    297 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,700 mL
                                                                    297 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.26/55/85.[**Numeric Identifier 128**]/28/-2
   Physical Examination
   General
 alert, oriented
   CV
 tachycardic; no murmurs, rubs, or gallops
   Resp
 clear to auscultation anteriorly
   Abdomen
 distended, TTP greatest in the mid epigastrum; no rebound or
   guarding
   Extremities
 no edema noted in the lower extremities
   Labs / Radiology
   163 K/uL
   12.4 g/dL
   116 mg/dL
   5.0 mg/dL
   28 mEq/L
   3.5 mEq/L
   32 mg/dL
   100 mEq/L
   139 mEq/L
   43.6 %
   8.4 K/uL
        [image002.jpg]
                             [**2113-8-10**]  06:21 AM
                             [**2113-8-10**]  07:33 PM
                             [**2113-8-10**]  07:35 PM
                             [**2113-8-10**]  08:06 PM
                             [**2113-8-10**]  11:07 PM
                             [**2113-8-11**]  12:42 AM
                             [**2113-8-11**]  02:18 AM
                             [**2113-8-11**]  02:35 AM
                             [**2113-8-11**]  06:20 AM
                             [**2113-8-12**]  02:01 AM
   WBC
   9.2
   9.5
   8.4
   Hct
   42.2
   43.0
   43.6
   Plt
   183
   212
   163
   Cr
   5.8
   6.2
   5.0
   TCO2
   23
   26
   27
   27
   28
   27
   26
   Glucose
   86
   83
   103
   87
   85
   93
   116
   Other labs: PT / PTT / INR:23.4/41.8/2.2, ALT / AST:22/90, Alk Phos / T
   Bili:61/2.6, Differential-Neuts:77.3 %, Lymph:14.4 %, Mono:5.7 %,
   Eos:2.3 %, Lactic Acid:1.4 mmol/L, Albumin:3.0 g/dL, LDH:282 IU/L,
   Ca++:6.9 mg/dL, Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Original 2 blood cultures were positive for coag+ staph
 all the rest
   are pending
   Assessment and Plan
 .H/O ANXIETY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 BACTEREMIA
   55 yo F with multiple medical problems including lymphocytic
   interstitial pneumonitis, pulmonary HTN, ESRD on HD, cardiomyopathy and
   emphysema on O2 at home, p/w right shoulder pain, months of progressive
   cough/SOB, fevers and found to have gram (+) bacteremia MSSA and septic
   arthritis of left wrist
   # Gram (+) bacteremia MSSA
 Now believed to be from septic left wrist.
   - 2 sets of blood cultures are positive now - speciated as coag+ s.
   aureus
   - gram stain of joint capsule washout sample: PMNs, no microorganisms
   - on nafcillin
   - pt got doppler U/S of fistula pending to eval for thrombus that could
   be showering septic emboli
 will follow-up
   - Will discuss with ID need for TEE to determine duration of therapy
   given septic joint as this should be the same as endocarditis.
   #Firm distended abd
   - abdominal u/s can not r/o cholecystitis
   - C/S gen surgery and get HIDA scan
   - will order pt a better bowel regimen including a suppository
   - add gent. for better gram negative coverage
   - continue with serial abdominal exams and to trend LFT
   # Septic Left Wrist
s/p washout
   - continue sling/splint
   - f/u culture data
   - f/u plastics recs
   # Cough/SOB
   - continue ipratropium and xopenex nebs.
   - pt says that her breathing is slowly improving
   - O2 sat 96% this am
   - will continue to monitor
   # ESRD
   - HD MWF
   - Renally dosing meds
   # Tachycardia
   - it seems like pt has a baseline tachycardia
   - EKG
s show no acute changes
   - will give 2 fluid boluses to see if pt
s tachycardia responds
   .
   # Cardiomyopathy (EF 30%)
   - will continue beta blocker
   - pt should be started on an ACE in future
   # Interstitial Pneumonitits/Pulmonary hypertension
   - will hold sildenafil at this point
   # Asthma/COPD
   - will continue xopenex and albuterol
   # HIV ([**2113-7-20**] CD4 257, VL <48)
   - last CD4 was 257; last viral load was <48
   - will continue HAART and bactrim for PCP [**Name Initial (PRE) 1374**]
   # Coagulopathy
   - need to repeat INR
   - will give vitamin K and will continue to monitor
   # HCV
   - not treated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2113-8-9**] 08:55 PM
   Arterial Line - [**2113-8-10**] 04:54 AM
   20 Gauge - [**2113-8-10**] 06:00 AM
   Multi Lumen - [**2113-8-10**] 10:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   Critical Care;
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   She complains of upper abdominal pain today and has had a rise in her
   bili to 2.8 with no worsening of alk phos. She is more animated in her
   responses and does complain of left hand pain. She remains on low dose
   levophed.
   We will proceed to HIDA scan ( concerns regarding cholecystitis) and
   keep NPO today. She will need gram negative coverage added to Nafcillin
   for concerns regarding heptobiliary infection until surgical staff has
   seen. No plans for further HD this weekend unless clinically needed. GI
   staff may be consulted if amylase/lipase rise.
   Patient is critically ill
   Total time: 35 min
   _________
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 1973**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 1015**]
   [**Location (un) 7530**], KS-B23
   [**Location (un) 223**], [**Numeric Identifier 4370**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1973**], MD
   on:[**2113-8-12**] 16:20 ------

2113-08-13 12:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - [**Name8 (MD) **] RN: pt more confused, refusing meds
   - surgery consulted re: cholecystitis and inc t. bili
   - has been NPO for likely HIDA scan
   - on levophed at 0.35 to maintain maps
   - gentamycin added for GNR coverage for possible biliary course
   - on 2g morphine q4
 1 dose overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2113-8-10**] 09:40 PM
   Gentamicin - [**2113-8-10**] 10:00 PM
   Metronidazole - [**2113-8-11**] 09:47 AM
   Nafcillin - [**2113-8-13**] 10:14 AM
   Infusions:
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2113-8-13**] 08:14 AM
   Heparin Sodium (Prophylaxis) - [**2113-8-13**] 08:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-8-13**] 12:16 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 120 (110 - 122) bpm
   BP: 68/53(60) {61/48(54) - 82/61(70)} mmHg
   RR: 21 (14 - 26) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 69.5 kg (admission): 69.5 kg
   Height: 64 Inch
             Total In:
                                                                  1,849 mL
                                                                    893 mL
   PO:
                                                                    300 mL
             TF:
   IVF:
                                                                  1,549 mL
                                                                    893 mL
   Blood products:
   Total out:
                                                                    100 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  1,749 mL
                                                                    893 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   General
 alert, oriented, agitated with medical staff
   CV
 tachycardic; no murmurs, rubs, or gallops
   Resp
 clear to auscultation anteriorly
   Abdomen
 distended, TTP greatest in the mid epigastrum; no rebound or
   guarding
   Extremities
 no edema noted in the lower extremities
   Labs / Radiology
   183 K/uL
   13.6 g/dL
   99 mg/dL
   6.1 mg/dL
   26 mEq/L
   4.2 mEq/L
   43 mg/dL
   97 mEq/L
   136 mEq/L
   46.3 %
   11.2 K/uL
        [image002.jpg]
                             [**2113-8-10**]  07:33 PM
                             [**2113-8-10**]  07:35 PM
                             [**2113-8-10**]  08:06 PM
                             [**2113-8-10**]  11:07 PM
                             [**2113-8-11**]  12:42 AM
                             [**2113-8-11**]  02:18 AM
                             [**2113-8-11**]  02:35 AM
                             [**2113-8-11**]  06:20 AM
                             [**2113-8-12**]  02:01 AM
                             [**2113-8-13**]  03:43 AM
   WBC
   9.2
   9.5
   8.4
   11.2
   Hct
   42.2
   43.0
   43.6
   46.3
   Plt
   183
   212
   163
   183
   Cr
   5.8
   6.2
   5.0
   6.1
   TCO2
   26
   27
   27
   28
   27
   26
   Glucose
   86
   83
   103
   87
   85
   93
   116
   99
   Other labs: PT / PTT / INR:21.3/42.0/2.0, ALT / AST:19/90, Alk Phos / T
   Bili:55/6.1, Amylase / Lipase:448/74, Differential-Neuts:77.3 %,
   Lymph:14.4 %, Mono:5.7 %, Eos:2.3 %, Lactic Acid:0.8 mmol/L,
   Albumin:3.0 g/dL, LDH:282 IU/L, Ca++:6.1 mg/dL, Mg++:2.2 mg/dL, PO4:5.2
   mg/dL
   Lactate 0.8
   INR 2.0
   Micro
 [**8-11**] left wrist tissue staph coag (+)
   Assessment and Plan
 .H/O ANXIETY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 BACTEREMIA
   55 yo F with multiple medical problems including lymphocytic
   interstitial pneumonitis, pulmonary HTN, ESRD on HD, cardiomyopathy and
   emphysema on O2 at home, p/w right shoulder pain, months of progressive
   cough/SOB, fevers and found to have gram (+) bacteremia MSSA and septic
   arthritis of left wrist
   # Gram (+) bacteremia MSSA
 Now believed to be involving septic left
   wrist.
   - 2 sets of blood cultures are positive now - speciated as coag+ s.
   aureus
   - gram stain of joint capsule washout sample
   - on nafcillin
   - pt got doppler U/S of fistula pending to eval for thrombus that could
   be showering septic emboli
 will follow-up
   - Will discuss with ID need for TEE to determine duration of therapy
   given septic joint as this should be the same as endocarditis.
   #Firm distended abd
   - abdominal u/s can not r/o cholecystitis
   - C/S gen surgery and get HIDA scan
   - will order pt a better bowel regimen including a suppository
   - add gent. for better gram negative coverage
   - continue with serial abdominal exams and to trend LFT
   - lipase and amylase
   - check direct bili
   # Septic Left Wrist
s/p washout
   - continue sling/splint
   - f/u culture data
   - f/u plastics recs
   # Tachycardia
   - it seems like pt has a baseline tachycardia
   - will bolus 250 cc and see how HR responds given her tachycardia and
   hypotension
   - EKG
s show no acute changes
   - will give 2 fluid boluses to see if pt
s tachycardia responds
   # Cough/SOB
   - continue ipratropium and xopenex nebs.
   - pt says that her breathing is slowly improving
   - O2 sat 96% this am
   - will continue to monitor
   # ESRD
   - HD MWF
   - Renally dosing meds
   # Cardiomyopathy (EF 30%)
   - will continue beta blocker
   - pt should be started on an ACE in future
   # Interstitial Pneumonitits/Pulmonary hypertension
   - will hold sildenafil at this point
   # Asthma/COPD
   - will continue xopenex and albuterol
   # HIV ([**2113-7-20**] CD4 257, VL <48)
   - last CD4 was 257; last viral load was <48
   - will continue HAART and bactrim for PCP [**Name Initial (PRE) 1374**]
   # Coagulopathy
   - need to repeat INR
   - continue to monitor
   # HCV
   - not treated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2113-8-9**] 08:55 PM
   Arterial Line - [**2113-8-10**] 04:54 AM
   20 Gauge - [**2113-8-10**] 06:00 AM
   Multi Lumen - [**2113-8-10**] 10:00 AM
   Prophylaxis:
   DVT: refused pboots and heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   Critical Care;
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   She awaits her HIDA scan today and will need gentle fluid rescucitation
   for continued pressor need. She remains tachycardic with lactate of
   0.8. She has had increasing agitation but can be oriented easily.
   Surgical drain has been removed today.
   Bili if now 6.1 as is creatinine. We will check amylase/ lipase and
   continue to keep NPO today. Antibiotics for septic arthritis and
   possible hepato-biliary source have been continued although surgical
   colleagues do not feel that concerned regarding an acute cholecystitis.
   Patient is critically ill
   Total time: 30 min
   _________
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 1973**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 1015**]
   [**Location (un) 7530**], KS-B23
   [**Location (un) 223**], [**Numeric Identifier 4370**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1973**], MD
   on:[**2113-8-13**] 14:31 ------

2113-08-14 06:48:00 Physician Resident Progress Note
Chief Complaint: R shoulder pain, worsening cough/SOB
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2113-8-13**] 01:30 PM
   HIDA scan gallbladderxcxc
   patient had worsening abdominal pain o/n, to CT this morning
   History obtained from Patient/nurse
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2113-8-13**] 06:00 PM
   Metronidazole - [**2113-8-13**] 10:57 PM
   Cefazolin - [**2113-8-14**] 12:00 AM
   Vancomycin - [**2113-8-14**] 04:00 AM
   Infusions:
   Norepinephrine - 0.36 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2113-8-13**] 06:20 PM
   Heparin Sodium (Prophylaxis) - [**2113-8-13**] 10:01 PM
   Other medications:
           1. IV access: Peripheral line Order date: [**8-10**] @ 1753
   17. Lactulose 30 mL PO Q8H:PRN constipation  Order date: [**8-13**] @ 1115
   2. IV access: Temporary central access (ICU) Location: Right Femoral,
   Date inserted: [**2113-8-10**] Order date: [**8-10**] @ 1753
   18. MetRONIDAZOLE (FLagyl) 500 mg IV Q12H  Order date: [**8-13**] @ 2113
   3. 250 mL NS Bolus 250 ml Over 10 mins Order date: [**8-13**] @ 1556
   19. Morphine Sulfate 2 mg IV Q4H:PRN pain
   hold for sedation   Order date: [**8-11**] @ 1121
   4. Acetaminophen 1000 mg PO TID  Order date: [**8-11**] @ 1121
   20. Nephrocaps 1 CAP PO DAILY  Order date: [**8-10**] @ 1753
   5. Bisacodyl 10 mg PR DAILY:PRN constipation  Order date: [**8-12**] @ 1011
   21. Norepinephrine 0.3-0.5 mcg/kg/min IV DRIP TITRATE TO keep MAP > 60
   Order date: [**8-12**] @ 1010
   6. CefazoLIN 2 g IV ONCE Duration: 1 Doses
   d1 [**8-13**] - Additional dose post HD  Order date: [**8-13**] @ [**2038**]
   22. Phytonadione 5 mg PO DAILY Duration: 3 Days Order date: [**8-12**] @
   1012
   7. Cosyntropin 250 mcg IV ONCE Duration: 1 Doses
   Plasma cortisol levels should be measured immediately before and
   exactly 30 minutes after a dose.   Order date: [**8-14**] @ 0007
   23. Raltegravir 400 mg PO BID  Order date: [**8-10**] @ 1753
   8. Docusate Sodium 100 mg PO DAILY:PRN constipation  Order date: [**8-10**]
   @ 1753
   24. Sarna Lotion 1 Appl TP QID:PRN itching  Order date: [**8-10**] @ 1753
   9. Etravirine 200 mg PO BID  Order date: [**8-10**] @ 1753
   25. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**8-10**] @ 1753
   10. Fexofenadine 60 mg PO DAILY:PRN hay fever  Order date: [**8-10**] @ 1753
   26. Sodium Chloride 0.9% Flush 10 mL IV PRN line flush
   Temporary Central Access-ICU: Flush with 10mL Normal Saline daily and
   PRN.  Order date: [**8-10**] @ 1753
   11. Gentamicin 100 mg IV Q HD cholecystitis  Order date: [**8-12**] @ 1444
   27. Sulfameth/Trimethoprim DS 1 TAB PO QMOWEFR  Order date: [**8-10**] @
   1753
   12. Guaifenesin-CODEINE Phosphate [**6-11**] mL PO Q6H:PRN cough   Order
   date: [**8-10**] @ 1753
   28. Vancomycin Oral Liquid 125 mg PO Q6H  Order date: [**8-13**] @ 2113
   13. Heparin 5000 UNIT SC TID  Order date: [**8-10**] @ 1753
   29. Vancomycin 1000 mg IV ONCE Duration: 1 Doses Order date: [**8-13**] @
   2113
   14. Hydrocortisone Cream 1% 1 Appl TP TID:PRN itching  Order date:
   [**8-10**] @ 1753
   30. Vancomycin 1000 mg IV HD PROTOCOL  Order date: [**8-13**] @ 2113
   15. Ipratropium Bromide Neb 1 NEB IH Q6H SOB  Order date: [**8-10**] @ 1753
   31. Xopenex Neb *NF* 0.63 mg Other Q3h SOB  Order date: [**8-10**] @ 1753
   16. LaMIVudine 50 mg PO DAILY  Order date: [**8-10**] @ 1753
   32. sevelamer HYDROCHLORIDE 1600 mg PO TID W/MEALS  Order date: [**8-10**] @
   1753
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2113-8-14**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.8
C (96.5
   HR: 116 (116 - 132) bpm
   BP: 86/67(75) {61/48(54) - 86/67(75)} mmHg
   RR: 26 (21 - 30) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 69.5 kg (admission): 69.5 kg
   Height: 64 Inch
             Total In:
                                                                  2,126 mL
                                                                    621 mL
   PO:
             TF:
   IVF:
                                                                  2,126 mL
                                                                    621 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,126 mL
                                                                    621 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.30/48/84.[**Numeric Identifier 1625**]/21/-2
   PaO2 / FiO2: 168
   Physical Examination
   General Appearance: Overweight / Obese, Anxious
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: bowel sounds absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   194 K/uL
   13.1 g/dL
   98 mg/dL
   6.8 mg/dL
   21 mEq/L
   5.3 mEq/L
   52 mg/dL
   95 mEq/L
   133 mEq/L
   44.6 %
   10.8 K/uL
        [image002.jpg]
                             [**2113-8-10**]  11:07 PM
                             [**2113-8-11**]  12:42 AM
                             [**2113-8-11**]  02:18 AM
                             [**2113-8-11**]  02:35 AM
                             [**2113-8-11**]  06:20 AM
                             [**2113-8-12**]  02:01 AM
                             [**2113-8-13**]  03:43 AM
                             [**2113-8-13**]  05:49 PM
                             [**2113-8-14**]  01:58 AM
                             [**2113-8-14**]  02:06 AM
   WBC
   9.5
   8.4
   11.2
   10.8
   Hct
   43.0
   43.6
   46.3
   44.6
   Plt
   [**Telephone/Fax (3) 9592**]94
   Cr
   6.2
   5.0
   6.1
   6.8
   TCO2
   27
   28
   27
   26
   23
   25
   Glucose
   103
   87
   85
   93
   116
   99
   98
   Other labs: PT / PTT / INR:20.5/46.6/1.9, ALT / AST:16/100, Alk Phos /
   T Bili:59/8.4, Amylase / Lipase:448/74, Differential-Neuts:77.3 %,
   Lymph:14.4 %, Mono:5.7 %, Eos:2.3 %, Lactic Acid:1.5 mmol/L,
   Albumin:3.0 g/dL, LDH:391 IU/L, Ca++:5.2 mg/dL, Mg++:2.2 mg/dL, PO4:6.7
   mg/dL
   Assessment and Plan
 .H/O ANXIETY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 BACTEREMIA
   55 yo F with multiple medical problems including lymphocytic
   interstitial pneumonitis, pulmonary HTN, ESRD on HD, cardiomyopathy and
   emphysema on O2 at home, p/w right shoulder pain, months of progressive
   cough/SOB, fevers and found to have gram (+) bacteremia MSSA and septic
   arthritis of left wrist
   # Gram (+) bacteremia MSSA
 Now believed to be involving septic left
   wrist.
   - 2 sets of blood cultures are positive now - speciated as coag+ s.
   aureus
   - gram stain of joint capsule washout sample
   - on nafcillin
   - pt got doppler U/S of fistula pending to eval for thrombus that could
   be showering septic emboli
 will follow-up
   - Will discuss with ID need for TEE to determine duration of therapy
   given septic joint as this should be the same as endocarditis.
   #Firm distended abd
   - abdominal u/s can not r/o cholecystitis
   - C/S gen surgery and get HIDA scan
   - will order pt a better bowel regimen including a suppository
   - add gent. for better gram negative coverage
   - continue with serial abdominal exams and to trend LFT
   - lipase and amylase
   - check direct bili
   # Septic Left Wrist
s/p washout
   - continue sling/splint
   - f/u culture data
   - f/u plastics recs
   # Tachycardia
   - it seems like pt has a baseline tachycardia
   - will bolus 250 cc and see how HR responds given her tachycardia and
   hypotension
   - EKG
s show no acute changes
   - will give 2 fluid boluses to see if pt
s tachycardia responds
   # Cough/SOB
   - continue ipratropium and xopenex nebs.
   - pt says that her breathing is slowly improving
   - O2 sat 96% this am
   - will continue to monitor
   # ESRD
   - HD MWF
   - Renally dosing meds
   # Cardiomyopathy (EF 30%)
   - will continue beta blocker
   - pt should be started on an ACE in future
   # Interstitial Pneumonitits/Pulmonary hypertension
   - will hold sildenafil at this point
   # Asthma/COPD
   - will continue xopenex and albuterol
   # HIV ([**2113-7-20**] CD4 257, VL <48)
   - last CD4 was 257; last viral load was <48
   - will continue HAART and bactrim for PCP [**Name Initial (PRE) 1374**]
   # Coagulopathy
   - need to repeat INR
   - continue to monitor
   # HCV
   - not treated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-8-10**] 04:54 AM
   Multi Lumen - [**2113-8-10**] 10:00 AM
   20 Gauge - [**2113-8-13**] 09:42 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2113-08-15 07:41:00 Physician Resident Progress Note
Chief Complaint:
   Gram + bacteremia
   24 Hour Events:
 STOOL CULTURE - At [**2113-8-14**] 03:33 PM
   c-diff
   - Renal suggest Midodrine and off Levo
   - Suggest swan ganz to see if this is R heart failure
   - Consider hepatology consult
   - Fistula U/S read needed
   - Pt had large bloody clot in PM.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2113-8-13**] 06:00 PM
   Metronidazole - [**2113-8-13**] 10:57 PM
   Vancomycin - [**2113-8-14**] 10:10 AM
   Cefazolin - [**2113-8-14**] 01:48 PM
   Gentamicin - [**2113-8-14**] 03:00 PM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2113-8-15**] 04:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-8-15**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.9
C (96.6
   HR: 108 (104 - 120) bpm
   BP: 53/38(44) {45/34(39) - 112/82(93)} mmHg
   RR: 20 (14 - 27) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 69.5 kg (admission): 69.5 kg
   Height: 64 Inch
             Total In:
                                                                  1,967 mL
                                                                    119 mL
   PO:
                                                                    540 mL
             TF:
   IVF:
                                                                  1,427 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                  2,300 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -333 mL
                                                                    119 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   126 K/uL
   11.5 g/dL
   66 mg/dL
   5.1 mg/dL
   25 mEq/L
   5.5 mEq/L
   36 mg/dL
   99 mEq/L
   136 mEq/L
   38.8 %
   8.1 K/uL
        [image002.jpg]
                             [**2113-8-11**]  02:18 AM
                             [**2113-8-11**]  02:35 AM
                             [**2113-8-11**]  06:20 AM
                             [**2113-8-12**]  02:01 AM
                             [**2113-8-13**]  03:43 AM
                             [**2113-8-13**]  05:49 PM
                             [**2113-8-14**]  01:58 AM
                             [**2113-8-14**]  02:06 AM
                             [**2113-8-14**]  06:24 PM
                             [**2113-8-15**]  01:57 AM
   WBC
   9.5
   8.4
   11.2
   10.8
   8.1
   Hct
   43.0
   43.6
   46.3
   44.6
   38.8
   Plt
   [**Telephone/Fax (3) 9592**]94
   126
   Cr
   6.2
   5.0
   6.1
   6.8
   4.5
   5.1
   TCO2
   27
   26
   23
   25
   Glucose
   87
   85
   93
   116
   99
   98
   76
   66
   Other labs: PT / PTT / INR:19.0/44.6/1.7, ALT / AST:10/103, Alk Phos /
   T Bili:51/7.0, Amylase / Lipase:462/168, Differential-Neuts:77.3 %,
   Lymph:14.4 %, Mono:5.7 %, Eos:2.3 %, Lactic Acid:1.3 mmol/L,
   Albumin:2.5 g/dL, LDH:391 IU/L, Ca++:6.3 mg/dL, Mg++:2.3 mg/dL, PO4:5.2
   mg/dL
   Assessment and Plan
 HEMOPTYSIS
 .H/O ANXIETY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 BACTEREMIA
   55 yo F with multiple medical problems including lymphocytic
   interstitial pneumonitis, pulmonary HTN, ESRD on HD, cardiomyopathy and
   emphysema on O2 at home, p/w right shoulder pain, months of progressive
   cough/SOB, fevers and found to have MSSA and septic arthritis of left
   wrist
   # MSSA
 Now believed to be involving septic left wrist.
   - Treating with Cefazolin. Will get PIC today for better acess
   - pt got doppler U/S of fistula pending to eval for thrombus that could
   be showering septic emboli
 will get read today
   - f/u ctxs
   - ID suggests TEE to r/o endocarditis. Will consider.
   # Septic Left Wrist
s/p washout
   - continue sling/splint
   - f/u culture data
   - f/u plastics recs
 daily dressing change and antibiotics
   -transition to PO pain meds
   # Hemoptysis: Likely worsened by coagulopathy. Patient
s vital signs
   stable and lactate within normal limits. This could represent embolus
   or focus of infection
   - Repeat CXR
   - Will give Vit K x3 days
   - Monitor INR, Hct, and symptoms
   #Elevate LFTs
   - Will get hepatology consult
   - added gent. for better gram negative coverage
   - continue with serial abdominal exams and to trend LFT
s, lipase and
   amylase
   - ID recommends tapping ascites fluid. Will consider
   #Hypotension: Possibly related to poor vasoregulation
   - Will D/C arterial line as it is not functioning well and could be
   potential source of infection
   - Wean levphed with goal SBP > 70. Will consider Midodrin
   - No swanz for now
   # Tachycardia
   - it seems like pt has a baseline tachycardia
   - EKG
s show no acute changes
   # Cough/SOB
   - continue ipratropium and xopenex nebs.
   - pt says that her breathing is slowly improving
   - O2 sat 96% this am
   - will continue to monitor
   # ESRD
   - HD MWF
   - Renally dosing meds
   - Will UF today and HD tomorrow per renal
   # Cardiomyopathy (EF 60%)
   - will continue beta blocker
   - pt should be started on an ACE in future
   # Interstitial Pneumonitits/Pulmonary hypertension
   - will hold sildenafil at this point [**3-6**] hypotension
   # Asthma/COPD
   - will continue xopenex and albuterol
   # HIV ([**2113-7-20**] CD4 257, VL <48)
   - last CD4 was 257; last viral load was <48
   - will continue HAART and bactrim for PCP [**Name Initial (PRE) 1374**]
   # HCV
   - not treated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines: Will get PIC today
   Arterial Line - [**2113-8-10**] 04:54 AM
   Multi Lumen - [**2113-8-10**] 10:00 AM
   20 Gauge - [**2113-8-13**] 09:42 PM
   Prophylaxis:
   DVT: Heparin SQ and pneumoboots which pt refuses
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: pending above

2113-08-16 13:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2113-8-15**] 10:20 AM
   from central line
   -HIDA nondiagnostic.  LFTs are still elevated but also has rising [**Doctor First Name **]/
   lipase.  Unclear why her LFTs are abnormal. Hepatology suggested tap
   ascites and MRCP Wed
   -put in for IR PICC [**8-16**] because could not access
   -patient had decrease in MS [**First Name (Titles) **] [**Last Name (Titles) 4480**] in 60s after morphine at 900, given
   narcan and 250cc NS; started on Midodrine
    bolus and norepi .08 mcg/kg and [**Last Name (Titles) 4480**] to 80s
   -Remains on cefazolime.
   -had 18 beat run of vtach-> Nl EKG, electrolytes sent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2113-8-13**] 06:00 PM
   Metronidazole - [**2113-8-13**] 10:57 PM
   Vancomycin - [**2113-8-14**] 10:10 AM
   Gentamicin - [**2113-8-14**] 03:00 PM
   Cefazolin - [**2113-8-16**] 10:20 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-8-16**] 01:25 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.8
C (96.5
   HR: 100 (94 - 115) bpm
   BP: 85/65(76) {42/27(32) - 85/65(76)} mmHg
   RR: 15 (10 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.5 kg (admission): 69.5 kg
   Height: 64 Inch
             Total In:
                                                                    458 mL
                                                                    488 mL
   PO:
                                                                    200 mL
                                                                    300 mL
   TF:
   IVF:
                                                                    258 mL
                                                                    189 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    458 mL
                                                                    489 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.35/40/69/21/-3
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: poor resp effort)
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   122 K/uL
   11.0 g/dL
   94 mg/dL
   5.4 mg/dL
   21 mEq/L
   3.7 mEq/L
   45 mg/dL
   101 mEq/L
   137 mEq/L
   38.1 %
   10.0 K/uL
        [image002.jpg]
                             [**2113-8-12**]  02:01 AM
                             [**2113-8-13**]  03:43 AM
                             [**2113-8-13**]  05:49 PM
                             [**2113-8-14**]  01:58 AM
                             [**2113-8-14**]  02:06 AM
                             [**2113-8-14**]  06:24 PM
                             [**2113-8-15**]  01:57 AM
                             [**2113-8-15**]  01:51 PM
                             [**2113-8-15**]  02:21 PM
                             [**2113-8-16**]  01:58 AM
   WBC
   8.4
   11.2
   10.8
   8.1
   10.0
   Hct
   43.6
   46.3
   44.6
   38.8
   38.1
   Plt
   163
   183
   194
   126
   122
   Cr
   5.0
   6.1
   6.8
   4.5
   5.1
   5.6
   5.4
   TCO2
   23
   25
   23
   Glucose
   116
   99
   98
   76
   66
   104
   86
   94
   Other labs: PT / PTT / INR:19.0/44.6/1.7, ALT / AST:[**5-/2068**], Alk Phos / T
   Bili:49/4.8, Amylase / Lipase:437/103, Differential-Neuts:77.3 %,
   Lymph:14.4 %, Mono:5.7 %, Eos:2.3 %, Lactic Acid:1.4 mmol/L,
   Albumin:2.5 g/dL, LDH:391 IU/L, Ca++:6.3 mg/dL, Mg++:2.2 mg/dL, PO4:4.6
   mg/dL
   Assessment and Plan
 HEMOPTYSIS
 .H/O ANXIETY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 BACTEREMIA
   55 yo F with multiple medical problems including lymphocytic
   interstitial pneumonitis, pulmonary HTN, ESRD on HD, cardiomyopathy and
   emphysema on O2 at home, p/w right shoulder pain, months of progressive
   cough/SOB, fevers and found to have MSSA and septic arthritis of left
   wrist
   # MSSA
 Now believed to be involving septic left wrist.
   - Treating with Cefazolin. Will get PIC today for better acess
   - pt got doppler U/S of fistula pending to eval for thrombus that could
   be showering septic emboli
 will get read today
   - f/u ctxs
   - ID suggests TEE, however it will not change our duration of
   antibiotic treatment  (6wk) so will not get
   # Septic Left Wrist
s/p washout
   - continue sling/splint
   - f/u culture data
   - f/u plastics recs
 daily dressing change and antibiotics
   -  Pain well controlled with percocet
   # Hemoptysis: Likely worsened by coagulopathy. Patient
s vital signs
   stable and lactate within normal limits. This could represent embolus
   or focus of infection
   - Will give Vit K x3 days
   - Monitor INR, Hct, and symptoms
   #Elevate LFTs
   - Will get hepatology consult
   - added gent. for better gram negative coverage
   - continue with serial abdominal exams and to trend LFT
s, lipase and
   amylase
   - Will tap ascites today
   - MRCP today
   # CT suggestive of adrenal infarction
   - Will discuss [**Last Name (un) **] stim test and CT results with endocrine today
   #Hypotension: Possibly related to poor vasoregulation
   - Will D/C arterial line as it is not functioning well and could be
   potential source of infection
   - Wean levphed with goal [**Last Name (un) 4480**] > 70.
   - Continue midodrine
   - No swanz for now
   # Tachycardia
   - it seems like pt has a baseline tachycardia
   - EKG
s show no acute changes
   # Cough/SOB
   - continue ipratropium and xopenex nebs.
   - pt says that her breathing is slowly improving
   - O2 sat 96% this am
   - will continue to monitor
   # ESRD
   - HD MWF
   - Renally dosing meds
   - Dialysis today
   # Cardiomyopathy (EF 60%)
   - will continue beta blocker
   - pt should be started on an ACE in future
   # Interstitial Pneumonitits/Pulmonary hypertension
   - will hold sildenafil at this point [**3-6**] hypotension
   # Asthma/COPD
   - will continue xopenex and albuterol
   # HIV ([**2113-7-20**] CD4 257, VL <48)
   - last CD4 was 257; last viral load was <48
   - will continue HAART and bactrim for PCP [**Name Initial (PRE) 1374**]
   # HCV
   - not treated
   ICU Care
   Nutrition: Renal diet
   Glycemic Control:  good
   Lines:
   Multi Lumen - [**2113-8-10**] 10:00 AM
   20 Gauge - [**2113-8-13**] 09:42 PM
   Prophylaxis:
   DVT: heparin SQ and pnuemoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: pending above

2113-08-17 07:24:00 Physician Resident Progress Note
Chief Complaint: MSSA
   24 Hour Events:
 ARTERIAL LINE - STOP [**2113-8-16**] 12:03 PM
 PICC LINE - START [**2113-8-16**] 04:59 PM
 MULTI LUMEN - STOP [**2113-8-16**] 07:05 PM
   - PICC placed
   - MRCP ordered
   - D/C'd fem line
   - Per ID, gent was stopped
   - Trial of steroids.  Plan for 2 doses 125mg IV solumedrol q8hrs. Pt
   showed improvement in steroids. Currently off levophed and only on
   midodrine
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2113-8-14**] 10:10 AM
   Cefazolin - [**2113-8-16**] 10:20 AM
   Gentamicin - [**2113-8-16**] 05:25 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-8-17**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36
C (96.8
   HR: 95 (94 - 106) bpm
   BP: 91/48(58) {72/38(30) - 97/75(65)} mmHg
   RR: 18 (10 - 24) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 69.7 kg (admission): 69.5 kg
   Height: 64 Inch
             Total In:
                                                                    655 mL
                                                                    276 mL
   PO:
                                                                    300 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    355 mL
                                                                     36 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,845 mL
                                                                    276 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   GEN: NAD
   CV: RRR, no m/r/g appreciated
   RESP: CTAB, but poor respiratory effort and limited exam
   Abd: soft, NT, ND, + BS
   Ext: 1 MTP joint tender to palpation bilaterally, no redness or
   swelling. Patient seems to have decreased movement in legs
   Neurologic: Responds to: verbal command, Movement: decreased in legs
   bilaterally, Tone: Not assessed
   Labs / Radiology
   113 K/uL
   9.8 g/dL
   86 mg/dL
   5.0 mg/dL
   29 mEq/L
   3.7 mEq/L
   31 mg/dL
   99 mEq/L
   139 mEq/L
   33.9 %
   6.5 K/uL
         [image002.jpg]
                             [**2113-8-13**]  03:43 AM
                             [**2113-8-13**]  05:49 PM
                             [**2113-8-14**]  01:58 AM
                             [**2113-8-14**]  02:06 AM
                             [**2113-8-14**]  06:24 PM
                             [**2113-8-15**]  01:57 AM
                             [**2113-8-15**]  01:51 PM
                             [**2113-8-15**]  02:21 PM
                             [**2113-8-16**]  01:58 AM
                             [**2113-8-17**]  01:51 AM
   WBC
   11.2
   10.8
   8.1
   10.0
   6.5
   Hct
   46.3
   44.6
   38.8
   38.1
   33.9
   Plt
   183
   194
   126
   122
   113
   Cr
   6.1
   6.8
   4.5
   5.1
   5.6
   5.4
   5.0
   TCO2
   23
   25
   23
   Glucose
   99
   98
   76
   66
   104
   86
   94
   86
   Other labs: PT / PTT / INR:19.0/44.6/1.7, ALT / AST:[**4-/2071**], Alk Phos / T
   Bili:54/3.7, Amylase / Lipase:544/141, Differential-Neuts:77.3 %,
   Lymph:14.4 %, Mono:5.7 %, Eos:2.3 %, Lactic Acid:1.4 mmol/L,
   Albumin:2.5 g/dL, LDH:391 IU/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.7
   mg/dL
   Microbiology: HCV viral load: 652,000 IU/mL.
   BC from [**8-11**] and [**8-15**] still pending
   Assessment and Plan
 HEMOPTYSIS
 H/O ANXIETY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 BACTEREMIA
   55 yo F with multiple medical problems including lymphocytic
   interstitial pneumonitis, pulmonary HTN, ESRD on HD, cardiomyopathy and
   emphysema on O2 at home, p/w right shoulder pain, months of progressive
   cough/SOB, fevers and found to have MSSA and septic arthritis of left
   wrist
   # MSSA
 Now believed to be involving septic left wrist.
   - Treating with Cefazolin. s/p PIC. Per ID, if TEE negative would treat
   4 weeks. If no TEE would treat 6 weeks. Also outpatient ID f/u with
   weekly CBC, CRP, ESR, LFTs, BMP. They signed off
   - f/u ctxs
   # Septic Left Wrist
s/p washout
   - continue sling/splint
   - f/u culture data
   - f/u plastics recs
 daily dressing change and antibiotics
   -  Pain well controlled with percocet
   #Elevate LFTs
   - Hepatology has no new recs. Stated HCV viral load will not affect
   current management
   - Per ID, d/c'd gent
   - continue with serial abdominal exams and to trend LFT
s, lipase and
   amylase
   - MRCP today
   # CT suggestive of adrenal infarction
   - Endo stated that adrenal response normal, if relatively adrenal
   insufficient can try stress dose steroids without fluid bolus or
   pressors.
   - Pts blood pressure has improved. However, it is difficult to tell if
   this is from midodrine or steroids. Will monitor BP off steroids to
   decide.
   #Hypotension: Possibly related to poor vasoregulation
   - Arterial line removed
   - Levophed off
   - Continue midodrine
   - Will restart steroids if hypotensive
   # Foot pain and leg weakness: unlikely gout given recent steroids.
   Unlikely sepsis given not febrile and no change in WBC and bilateral
   - Will monitor
   - PT consult
   # Hemoptysis: Likely worsened by coagulopathy. No repeat episodes
   - Monitor INR, Hct, and symptoms
   # Tachycardia
   - it seems like pt has a baseline tachycardia
   - EKG
s show no acute changes
    # Cough/SOB
   - continue ipratropium and xopenex nebs.
   - pt says that her breathing is slowly improving
   - O2 sat 96% this am
   - will continue to monitor
   # ESRD
   - HD MWF
   - Renally dosing meds
   # Cardiomyopathy (EF 60%)
   - will continue beta blocker
   - pt should be started on an ACE in future
   # Interstitial Pneumonitits/Pulmonary hypertension
   - will hold sildenafil at this point [**3-6**] hypotension
   # Asthma/COPD
   - will continue xopenex and albuterol
   # HIV ([**2113-7-20**] CD4 257, VL <48)
   - last CD4 was 257; last viral load was <48
   - will continue HAART and bactrim for PCP [**Name Initial (PRE) 1374**]
    # HCV
   - not treated
   ICU Care
   Nutrition: Renal diet
   Glycemic Control:  good
   Lines:
   20 Gauge - [**2113-8-13**] 09:42 PM
   PICC Line - [**2113-8-16**] 04:59 PM
   Prophylaxis:
   DVT: Hep SQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2113-08-18 07:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - MRCP was to be last night, but patient refused earlier in day
   - Pt later did not complain of foot pain to nurse. [**First Name (Titles) **] [**Last Name (Titles) 2269**] at night,
   she complained of pain on her 1 MTP joint but not to the same degree as
   earlier.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2113-8-16**] 10:20 AM
   Gentamicin - [**2113-8-16**] 05:25 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Bisacodyl 4. CefazoLIN 5. CefazoLIN 6. Docusate Sodium 7. Etravirine 8.
   Fexofenadine
   9. Guaifenesin-CODEINE Phosphate 10. Heparin 11. Hydrocortisone Cream
   1% 12. 13. Ipratropium Bromide Neb
   14. LaMIVudine 15. Lactulose 16. Midodrine 17. Nephrocaps 18.
   Oxycodone-Acetaminophen 19. Polyethylene Glycol
   20. Raltegravir 21. Sarna Lotion 22. Sodium Chloride 0.9% Flush 23.
   Sodium Chloride 0.9% Flush
   24. Sulfameth/Trimethoprim DS 25. Xopenex Neb 26. sevelamer
   HYDROCHLORIDE
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: no pain, no SOB, wants to walk around and see PT
   Flowsheet Data as of  [**2113-8-18**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36
C (96.8
   HR: 90 (90 - 105) bpm
   BP: 116/71(79) {98/54(66) - 124/89(95)} mmHg
   RR: 12 (11 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.7 kg (admission): 69.5 kg
   Height: 64 Inch
             Total In:
                                                                    600 mL
                                                                     38 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                    120 mL
                                                                     38 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    600 mL
                                                                     38 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   Gen: alert, oriented, very talkative and moving around
   CV: rrr nl s1/s2 no murmurs
   Pulm: cta b/l
   Abd: +BS, soft, NT, ND
   Ext: left wrist wrapped, no metatarsal TTP; [**5-7**] leg elevation b/l
   Labs / Radiology
   110 K/uL
   9.7 g/dL
   113 mg/dL
   6.0 mg/dL
   27 mEq/L
   4.9 mEq/L
   47 mg/dL
   97 mEq/L
   137 mEq/L
   33.3 %
   7.7 K/uL
                             [**2113-8-13**]  05:49 PM
                             [**2113-8-14**]  01:58 AM
                             [**2113-8-14**]  02:06 AM
                             [**2113-8-14**]  06:24 PM
                             [**2113-8-15**]  01:57 AM
                             [**2113-8-15**]  01:51 PM
                             [**2113-8-15**]  02:21 PM
                             [**2113-8-16**]  01:58 AM
                             [**2113-8-17**]  01:51 AM
                             [**2113-8-18**]  02:34 AM
   WBC
   10.8
   8.1
   10.0
   6.5
   7.7
   Hct
   44.6
   38.8
   38.1
   33.9
   33.3
   Plt
   194
   126
   122
   113
   110
   Cr
   6.8
   4.5
   5.1
   5.6
   5.4
   5.0
   6.0
   TCO2
   23
   25
   23
   Glucose
   98
   76
   66
   104
   86
   94
   86
   113
   Other labs: PT / PTT / INR:19.0/44.6/1.7, ALT / AST:[**3-/2061**], Alk Phos / T
   Bili:60/3.5, Amylase / Lipase:680/107, Differential-Neuts:77.3 %,
   Lymph:14.4 %, Mono:5.7 %, Eos:2.3 %, Lactic Acid:1.4 mmol/L,
   Albumin:2.5 g/dL, LDH:391 IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:5.5
   mg/dL
   Fluid analysis / Other labs: blood ctx [**8-15**] pending
   Assessment and Plan
 HEMOPTYSIS
 .H/O ANXIETY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 BACTEREMIA
   55 yo F with multiple medical problems including lymphocytic
   interstitial pneumonitis, pulmonary HTN, ESRD on HD, cardiomyopathy and
   emphysema on O2 at home, p/w right shoulder pain, months of progressive
   cough/SOB, fevers and found to have MSSA and septic arthritis of left
   wrist
   # MSSA
 Now believed to be involving septic left wrist.
   - Treating with Cefazolin. s/p PICC. Per ID, if TEE negative would
   treat 4 weeks. If no TEE would treat 6 weeks (D1= [**8-14**]). Also
   outpatient ID f/u with weekly CBC, CRP, ESR, LFTs, BMP. They signed off
   - f/u ctxs
   - dose Cefazolin 3G IV after HD today.
   # Septic Left Wrist
s/p washout
   - continue sling/splint
   - f/u culture data
   - dressing changes
   - Pain well controlled with percocet
   #Elevate LFTs
   - Hepatology has no new recs. Stated HCV viral load will not affect
   current management
   - Per ID, d/c'd gent
   - bili, amylase still elevated however pt. has refused MRCP and since
   AST and TB trending down and elevated Amylase could be [**3-6**] renal
   failure (and abdominal [**Month/Day (2) 2269**] improved) will revisit MRCP/paracentesis if
   labs or clinical condition warrants.
   # CT suggestive of adrenal infarction
   - Endo stated that adrenal response normal, if relatively adrenal
   insufficient can try stress dose steroids without fluid bolus or
   pressors.
   - Pts blood pressure has improved. However, it is difficult to tell if
   this is from midodrine or steroids. Now has been stable off of steroids
   and has refused Midodrine all of [**8-17**], so consider stopping today.
   #Hypotension: Possibly related to poor vasoregulation
   - Levophed off
   - consider d/c Midodrine as has been stable off of it.
   - Will restart steroids if hypotensive
   # Foot pain and leg weakness: unlikely gout given recent steroids.
   Unlikely sepsis given not febrile and no change in WBC and bilateral.
   Actually much improved today.
   - Will monitor
   - PT consult
   # Hemoptysis: Likely worsened by coagulopathy. No repeat episodes
   - Monitor INR, Hct, and symptoms
   # Tachycardia
   - it seems like pt has a baseline tachycardia
   - EKG
s show no acute changes
    # Cough/SOB
   - continue ipratropium and xopenex nebs.
   - pt says that her breathing is slowly improving
   - pt. now stable on 4L (3L  home oxygen regimen)
   - will continue to monitor
   # ESRD
   - HD today with UF
   - Renally dosing meds
   # Cardiomyopathy (EF 60%)
   - consider restarting home BB, Toprol XL 25 mg daily.
   - pt should be started on an ACE in future
   # Interstitial Pneumonitits/Pulmonary hypertension
   - will hold sildenafil at this point [**3-6**] hypotension
   # Asthma/COPD
   - will continue xopenex and albuterol
   # HIV ([**2113-7-20**] CD4 257, VL <48)
   - last CD4 was 257; last viral load was <48
   - will continue HAART and bactrim for PCP [**Name Initial (PRE) 1374**]
    # HCV
   - not treated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2113-8-13**] 09:42 PM
   PICC Line - [**2113-8-16**] 04:59 PM
   Prophylaxis:
   DVT:  Heparin SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: c/o today

2113-08-19 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   [**8-18**]
   -bili, liver enzymes trending down, amylase still up
   -[**Doctor First Name 361**], CM, aware that needs rehab
   -went for HD, BPs tolerated well, restarted on metoprolol 12.5mg [**Hospital1 **]
   (home dose Toprol XL 25mg QD)
   -d/c'd midodrine, xopenex
   -UF tomorrow
   -Had BP to systolic 83 at 4am, felt dizziness, sxs and BP resolved on
   their own.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2113-8-16**] 10:20 AM
   Gentamicin - [**2113-8-16**] 05:25 PM
   Infusions:
   Other ICU medications:
   CefazoLIN
   Docusate Sodium
   Etravirine
   Fexofenadine
   Guaifenesin-CODEINE Phosphate
   Heparin
   Hydrocortisone Cream 1%
   Ipratropium Bromide Neb
   LaMIVudine
   Lactulose
   Metoprolol Tartrate
   Nephrocaps
   Oxycodone-Acetaminophen
   Polyethylene Glycol
   Raltegravir
   Sulfameth/Trimethoprim DS
   sevelamer
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-8-19**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.6
   HR: 106 (91 - 106) bpm
   BP: 94/62(70) {91/46(56) - 130/87(97)} mmHg
   RR: 20 (13 - 22) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 69.7 kg (admission): 69.5 kg
   Height: 64 Inch
             Total In:
                                                                    120 mL
                                                                     38 mL
   PO:
             TF:
   IVF:
                                                                    120 mL
                                                                     38 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,880 mL
                                                                     38 mL
   Respiratory support
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, non-icteric
   Head, Ears, Nose, Throat: Normocephalic, hoarse voice
   Lymphatic: Cervical WNL, Supraclavicular WNL, No(t) Cervical adenopathy
   Cardiovascular: Tachy, RR, nl s1/s2
   Respiratory / Chest: no wheezing/rales
   Abdominal: Soft, mildly distended (better), +bs
   Skin:  Warm, no rashes
   Neurologic: Responds to: voice, Movement: purposeful, Tone: normal
   Labs / Radiology
   115 K/uL
   8.5 g/dL
   103 mg/dL
   3.9 mg/dL
   26 mEq/L
   3.4 mEq/L
   27 mg/dL
   99 mEq/L
   136 mEq/L
   28.8 %
   5.6 K/uL
        [image002.jpg]
                             [**2113-8-14**]  01:58 AM
                             [**2113-8-14**]  02:06 AM
                             [**2113-8-14**]  06:24 PM
                             [**2113-8-15**]  01:57 AM
                             [**2113-8-15**]  01:51 PM
                             [**2113-8-15**]  02:21 PM
                             [**2113-8-16**]  01:58 AM
                             [**2113-8-17**]  01:51 AM
                             [**2113-8-18**]  02:34 AM
                             [**2113-8-19**]  03:18 AM
   WBC
   10.8
   8.1
   10.0
   6.5
   7.7
   5.6
   Hct
   44.6
   38.8
   38.1
   33.9
   33.3
   28.8
   Plt
   194
   126
   122
   113
   110
   115
   Cr
   6.8
   4.5
   5.1
   5.6
   5.4
   5.0
   6.0
   3.9
   TCO2
   25
   23
   Glucose
   98
   76
   66
   104
   86
   94
   86
   113
   103
   Other labs: PT / PTT / INR:17.9/38.8/1.6, ALT / AST:[**3-/2060**], Alk Phos / T
   Bili:63/2.2, Amylase / Lipase:1034/195, Differential-Neuts:77.3 %,
   Lymph:14.4 %, Mono:5.7 %, Eos:2.3 %, Lactic Acid:1.4 mmol/L,
   Albumin:2.5 g/dL, LDH:391 IU/L, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
 HEMOPTYSIS
 .H/O ANXIETY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 BACTEREMIA
   55 yo F with multiple medical problems including lymphocytic
   interstitial pneumonitis, pulmonary HTN, ESRD on HD, cardiomyopathy and
   emphysema on O2 at home, p/w right shoulder pain, months of progressive
   cough/SOB, fevers and found to have MSSA and septic arthritis of left
   wrist
    # MSSA
 Now believed to be involving septic left wrist.
   - Treating with Cefazolin. s/p PICC. 6 week duration of therapy (D1=
   [**8-14**]). Also outpatient ID f/u with weekly CBC, CRP, ESR, LFTs, BMP.
   - f/u ctxs
   - dose Cefazolin 3G IV after HD today.
   # Septic Left Wrist
s/p washout
   - continue sling/splint
   - f/u culture data
   - dressing changes
   - Pain well controlled with percocet
   #Elevate LFTs
   - Hepatology has no new recs. Stated HCV viral load will not affect
   current management
   - Per ID, d/c'd gent
   - bili, amylase still elevated however pt. has refused MRCP and since
   AST and TB trending down and elevated Amylase could be [**3-6**] renal
   failure (and abdominal exam improved) will revisit MRCP/paracentesis if
   labs or clinical condition warrants.
   # CT suggestive of adrenal infarction
   - Endo stated that adrenal response normal, if relatively adrenal
   insufficient can try stress dose steroids without fluid bolus or
   pressors.
   #Hypotension: Possibly related to poor vasoregulation
   - Levophed off
   - Pts blood pressure has improved. However, it is difficult to tell if
   this is from midodrine or steroids. Now has been stable off of steroids
   and has refused Midodrine all of [**8-17**], so stop Midodrine today.
   - Will restart steroids if hypotensive
    # Foot pain and leg weakness: unlikely gout given recent steroids.
   Unlikely sepsis given not febrile and no change in WBC and bilateral.
   Actually completely improved today.
   - Will monitor
   - PT consult
   # Hemoptysis: Likely worsened by coagulopathy. No repeat episodes
   - Monitor INR, Hct, and symptoms
   # Tachycardia
   - it seems like pt has a baseline tachycardia
   - EKG
s show no acute changes
   -restart home beta blocker after HD (Toprol XL 25 daily)
    # Cough/SOB
   - continue ipratropium and xopenex nebs.
   - pt. now stable on 4L (3L  home oxygen regimen)
   - will continue to monitor
   # ESRD
   - HD Monday with UF
   - Renally dosing meds
   # Cardiomyopathy (EF 60%)
   - consider restarting home BB, Toprol XL 25 mg daily afer HD.
   - pt should be started on an ACE in future in consultation with PCP
   # Interstitial Pneumonitits/Pulmonary hypertension
   - will continue to hold sildenafil at this point [**3-6**] hypotension
   # Asthma/COPD
   - will continue xopenex and atrovent
   # HIV ([**2113-7-20**] CD4 257, VL <48)
   - last CD4 was 257; last viral load was <48
   - will continue HAART and bactrim for PCP [**Name Initial (PRE) 1374**]
    # HCV
   - not treated
   ICU Care
   Nutrition: Renal diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2113-8-13**] 09:42 PM
   PICC Line - [**2113-8-16**] 04:59 PM
   Prophylaxis:
   DVT: Heparin (refuses)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: Called out yesterday

2113-08-19 12:13:00 Physician Attending Progress Note
Chief Complaint: 55 yo female with LIP, pHTN, COPD, ESRD on HD
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Admitted with MSSA septic arthritis with SBP slow to improve after
   clearance of bacteremia- attempted on steroid trial, mitodrine trial
   both stopped approximately 36 hours ago
   24 Hour Events:
 CALLED OUT
   LFT's trending down
   Case management looking into placement
   Metoprolol 12.5 mg [**Hospital1 **] started for atrial tachycardia
   Mitodrine, [**Hospital1 9658**] stopped
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2113-8-16**] 05:25 PM
   Infusions:
   Other ICU medications:
   Other medications:
   bactrim, nephrocap, renagel, atrovent, [**Last Name (LF) 9658**], [**First Name3 (LF) **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-8-19**] 11:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.6
   HR: 92 (89 - 106) bpm
   BP: 88/48(56) {87/46(55) - 117/82(90)} mmHg
   RR: 18 (13 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.7 kg (admission): 69.5 kg
   Height: 64 Inch
             Total In:
                                                                    120 mL
                                                                     59 mL
   PO:
             TF:
   IVF:
                                                                    120 mL
                                                                     59 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,880 mL
                                                                     59 mL
   Respiratory support
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: No(t) Pupils dilated, No(t) Conjunctiva pale, No(t)
   Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube; hoarse voice
   Lymphatic: Cervical WNL, Supraclavicular WNL, No(t) Cervical adenopathy
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), no
   wheezing/rales
   Abdominal: Soft, mildly distended (better), +bs
   Skin:  Warm, no rashes
   Neurologic: Responds to: voice, Movement: purposeful, Tone: normal
   Labs / Radiology
   8.5 g/dL
   115 K/uL
   103 mg/dL
   3.9 mg/dL
   26 mEq/L
   3.4 mEq/L
   27 mg/dL
   99 mEq/L
   136 mEq/L
   28.8 %
   5.6 K/uL
        [image002.jpg]
                             [**2113-8-14**]  01:58 AM
                             [**2113-8-14**]  02:06 AM
                             [**2113-8-14**]  06:24 PM
                             [**2113-8-15**]  01:57 AM
                             [**2113-8-15**]  01:51 PM
                             [**2113-8-15**]  02:21 PM
                             [**2113-8-16**]  01:58 AM
                             [**2113-8-17**]  01:51 AM
                             [**2113-8-18**]  02:34 AM
                             [**2113-8-19**]  03:18 AM
   WBC
   10.8
   8.1
   10.0
   6.5
   7.7
   5.6
   Hct
   44.6
   38.8
   38.1
   33.9
   33.3
   28.8
   Plt
   194
   126
   122
   113
   110
   115
   Cr
   6.8
   4.5
   5.1
   5.6
   5.4
   5.0
   6.0
   3.9
   TCO2
   25
   23
   Glucose
   98
   76
   66
   104
   86
   94
   86
   113
   103
   Other labs: PT / PTT / INR:17.9/38.8/1.6, ALT / AST:[**3-/2060**], Alk Phos / T
   Bili:63/2.2, Amylase / Lipase:1034/195 (increasing),
   Differential-Neuts:77.3 %, Lymph:14.4 %, Mono:5.7 %, Eos:2.3 %, Lactic
   Acid:1.4 mmol/L, Albumin:2.5 g/dL, LDH:391 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 HEMOPTYSIS
 .H/O ANXIETY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 BACTEREMIA
   55 yo female with HIV positivity, pHTN, LIP admitted with MSSA septic
   arthritis.
   Some decreases in BP while sleeping (was started on metoprolol
   yesterday) though improved when awake
   1.       MSSA septic arthritis: 6 wks of bactrim empirically due to
   inability to r/o SBE completely. s/p wash out, splint placed by Ortho,
   2.       LFT
s : net trend down but both amylase and lipase increasing
   with unrevealing abd CT
s. Continue to follow- may need repeat CT given
   relative contraindications to MR [**First Name (Titles) 9659**] [**Last Name (Titles) 9660**] MRCP
   3.       Hypotension: BP slightly low while sleeping but normalize
   while awake. Had undergone prolonged w/u with no definite etiology,
   adrenal status still unclear. Continue to monitor off
   steroids/mitodrine
   4.       HIV: on HARRT regimen
   5.       ESRD: HD next Monday
   6.       Anemia: Review of labs show slow downward trend in Hct over
   the past 5-6 days. No overt bleeding. Plan guiac stools, trend hct
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2113-8-13**] 09:42 PM
   PICC Line - [**2113-8-16**] 04:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2113-08-20 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2113-8-19**] 05:53 PM
 CALLED OUT
   [**8-19**]
   - Called to bedside by RN for black tarry stool which was guiac
   positive.  Made Pt NPO, ordered CBC, Coags, Cross x3units, transfuse 1
   unit PRBC now, IV PPI [**Hospital1 **].
   - F/U HCT with appropriate response.  Will get AM HCT and follow.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-8-19**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-8-20**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.7
C (96.2
   HR: 104 (89 - 106) bpm
   BP: 104/66(74) {84/47(55) - 122/76(87)} mmHg
   RR: 24 (11 - 25) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 67.8 kg (admission): 69.5 kg
   Height: 64 Inch
             Total In:
                                                                    408 mL
                                                                     39 mL
   PO:
             TF:
   IVF:
                                                                    130 mL
                                                                     39 mL
   Blood products:
                                                                    278 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    408 mL
                                                                     39 mL
   Respiratory support
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   123 K/uL
   9.0 g/dL
   81 mg/dL
   5.2 mg/dL
   27 mEq/L
   3.5 mEq/L
   36 mg/dL
   100 mEq/L
   139 mEq/L
   29.8 %
   5.9 K/uL
        [image002.jpg]
                             [**2113-8-15**]  01:57 AM
                             [**2113-8-15**]  01:51 PM
                             [**2113-8-15**]  02:21 PM
                             [**2113-8-16**]  01:58 AM
                             [**2113-8-17**]  01:51 AM
                             [**2113-8-18**]  02:34 AM
                             [**2113-8-19**]  03:18 AM
                             [**2113-8-19**]  02:12 PM
                             [**2113-8-19**]  09:04 PM
                             [**2113-8-20**]  02:45 AM
   WBC
   8.1
   10.0
   6.5
   7.7
   5.6
   5.6
   5.9
   Hct
   38.8
   38.1
   33.9
   33.3
   28.8
   28.0
   27.8
   29.8
   Plt
   126
   122
   113
   110
   115
   104
   123
   Cr
   5.1
   5.6
   5.4
   5.0
   6.0
   3.9
   5.2
   TCO2
   23
   Glucose
   66
   104
   86
   94
   86
   113
   103
   81
   Other labs: PT / PTT / INR:18.6/38.3/1.7, ALT / AST:2/43, Alk Phos / T
   Bili:58/2.1, Amylase / Lipase:957/180, Differential-Neuts:77.3 %,
   Lymph:14.4 %, Mono:5.7 %, Eos:2.3 %, Lactic Acid:1.4 mmol/L,
   Albumin:2.5 g/dL, LDH:334 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HEMOPTYSIS
 .H/O ANXIETY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 BACTEREMIA
   55 yo F with multiple medical problems including lymphocytic
   interstitial pneumonitis, pulmonary HTN, ESRD on HD, cardiomyopathy and
   emphysema on O2 at home, p/w right shoulder pain, months of progressive
   cough/SOB, fevers and found to have MSSA and septic arthritis of left
   wrist
   # GIB: Pt has had declining Hct and had a guiac positive melanotic
   stool [**8-19**] at ~2100hrs.  Pt was made NPO, ordered CBC, Coags, Cross
   x3units, , IV PPI [**Hospital1 **], and transfused 1 unit PRBC.  NG lavage was
   negative.
   - Trend Hct
   - Give Vit K PO.
   - c/s GI
   - Transfuse PRN for falling Hct if drop 3-4points.
    # MSSA
 Now believed to be involving septic left wrist.
   - Treating with Cefazolin. s/p PICC. 6 week duration of therapy (D1=
   [**8-14**]). Also outpatient ID f/u with weekly CBC, CRP, ESR, LFTs, BMP.
   - f/u ctxs
   - dose Cefazolin 3G IV after HD.
   # Septic Left Wrist
s/p washout
   - continue sling/splint
   - f/u culture data
   - dressing changes
   - Pain well controlled with percocet
   #Elevate LFTs
   - u/s yesterday without intrahepatic or extrahepatic biliary
   dilatation, Cholelithiasis without evidence of acute cholecystitis
   - Ordered CT protocol for pancreas to eval for pancreatitis given
   elevated [**Doctor First Name 429**]/Lip
   - Elevated amylase could be related to small bowel erosion.  This is
   supported by GIB.  Will d/w GI
   # CT suggestive of adrenal infarction: Endo stated that adrenal
   response normal, if relatively adrenal insufficient can try stress dose
   steroids without fluid bolus or pressors.
   -NTD
   #Hypotension: Possibly related to poor vasoregulation
   - Levophed off
   - Pts blood pressure has improved. However, it is difficult to tell if
   this is from midodrine or steroids. Now has been stable off of steroids
   and Midodrine
   - Will restart steroids if hypotensive
    # Foot pain and leg weakness: unlikely gout given recent steroids.
   Unlikely sepsis given not febrile and no change in WBC and bilateral.
   Actually completely improved today.
   - Will monitor
   - PT consult
   # Hemoptysis: Likely worsened by coagulopathy. No repeat episodes
   - Monitor symptoms
   # Tachycardia
   - it seems like pt has a baseline tachycardia
   - EKG
s show no acute changes
   - on metoprolol for rate control
    # Cough/SOB
   - continue ipratropium and xopenex nebs.
   - pt. now stable on 4L (3L  home oxygen regimen)
   - will continue to monitor
   # ESRD
   - HD Monday with UF
   - Renally dosing meds
   # Cardiomyopathy (EF 60%)
   - on BB for tachycardia.
   - pt should be started on an ACE in future in consultation with PCP
   # Interstitial Pneumonitits/Pulmonary hypertension
   - will continue to hold sildenafil at this point [**3-6**] hypotension
   # Asthma/COPD
   - will continue xopenex and atrovent
   # HIV ([**2113-7-20**] CD4 257, VL <48)
   - last CD4 was 257; last viral load was <48
   - will continue HAART and bactrim for PCP [**Name Initial (PRE) 1374**]
    # HCV
   - not treated
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2113-8-13**] 09:42 PM
   PICC Line - [**2113-8-16**] 04:59 PM
   Prophylaxis:
   DVT: SC Heparin (refuses), SCD
   Stress ulcer: IV PPI [**Hospital1 **]
   VAP:  n/a
   Comments:
   Communication: With Patient Comments:
   Code status: Full
   Disposition: MICU -> Possible PM call out

2113-08-20 09:44:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   MSSA septic arthritis with persistently low BP, steroids/mitrodine
   recently stopped
   [**Hospital **] medical hx includes HIV, LIP, pulmHTN, renal failure
   24 Hour Events:
 ULTRASOUND - At [**2113-8-19**] 05:53 PM
   - had episode of melana- made NPO with serial hct's, transfusion 1
   units
   f/u Hct with appropriate response
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-8-19**] 09:30 PM
   Other medications:
   lamovidne, alb/atrovent, miralax, renagel, metoprolol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-8-20**] 09:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.7
C (96.2
   HR: 101 (89 - 106) bpm
   BP: 106/70(76) {84/47(55) - 122/76(87)} mmHg
   RR: 16 (11 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.8 kg (admission): 69.5 kg
   Height: 64 Inch
             Total In:
                                                                    408 mL
                                                                     46 mL
   PO:
             TF:
   IVF:
                                                                    130 mL
                                                                     46 mL
   Blood products:
                                                                    278 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    408 mL
                                                                     46 mL
   Respiratory support
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: No(t) S3, No(t) S4, No(t) Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   123 K/uL
   81 mg/dL
   5.2 mg/dL
   27 mEq/L
   3.5 mEq/L
   36 mg/dL
   100 mEq/L
   139 mEq/L
   30.5 %
   5.9 K/uL
        [image002.jpg]
                             [**2113-8-15**]  01:51 PM
                             [**2113-8-15**]  02:21 PM
                             [**2113-8-16**]  01:58 AM
                             [**2113-8-17**]  01:51 AM
                             [**2113-8-18**]  02:34 AM
                             [**2113-8-19**]  03:18 AM
                             [**2113-8-19**]  02:12 PM
                             [**2113-8-19**]  09:04 PM
                             [**2113-8-20**]  02:45 AM
                             [**2113-8-20**]  07:11 AM
   WBC
   10.0
   6.5
   7.7
   5.6
   5.6
   5.9
   Hct
   38.1
   33.9
   33.3
   28.8
   28.0
   27.8
   29.8
   30.5
   Plt
   122
   113
   110
   115
   104
   123
   Cr
   5.6
   5.4
   5.0
   6.0
   3.9
   5.2
   TCO2
   23
   Glucose
   104
   86
   94
   86
   113
   103
   81
   Other labs: PT / PTT / INR:18.6/38.3/1.7 , ALT / AST:2/43, Alk Phos / T
   Bili:58/2.1, Amylase / Lipase:957/180 (slightly decreased from
   yesterday), Differential-Neuts:77.3 %, Lymph:14.4 %, Mono:5.7 %,
   Eos:2.3 %, Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL, LDH:334 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Imaging: US : no intra or extrahepatic biliary diltation.
   cholilithiasis. +ascites/splenomegaly
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HEMOPTYSIS
 .H/O ANXIETY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 BACTEREMIA
   MSSA septic arthritis
   HIV with LIP/pulm HTN
   ESRD on HD
   Pancreatitis by lab
   GI bleed/acute blood loss anemia
   1. GI bleed/acute blood loss anemia: appears slow trend as pt now
   reports dark stools for several days.
   - Transfused 1 unit blood yesterday with appropriate correction
   - On IV PPI, serial hct's
   - Correct coagulopathy with vitamin K
   - GI consult
   - relatively lower threshold for transfusion dependent on pt's
   borderline BP and iniability to tolerate too much crytalloid
   resuscitation
   2. MSSA septic arthritis s/p washout: On cefazolin - 6 wk course
   3. Pancreatitis: other LFT's decreasing but by lab has pancreatitis,
   unless elevated amylase from extra-pancreatitc source (can be seen with
   SB ulceration). Abdominal US yesterday unrevealing except for
   cholelithiasis. Pt underwent an abdominal CT 4 days ago, though minus
   oral contrast, which was unrevealing.
   - will discuss further imaging with GI
   4. Hypotension: BP's better over the past day.
   Metoprolol held yesterday due to GI bleed
   5. HIV - remains on outpt meds-
   6. ESRD- on M-W-F HD schedule
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2113-8-13**] 09:42 PM
   PICC Line - [**2113-8-16**] 04:59 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU with further dispo depending on Hct trend
   Total time spent: 35 minutes
   Patient is critically ill

2113-08-21 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   - CTA pancreas done. final read pending
   - HCT stable
   - GI had planned to scope today, now pending. Pt was NPO after
   midnight. Getting vit K to improve INR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Bisacodyl 4. CefazoLIN 5. CefazoLIN 6. Docusate Sodium 7. Etravirine 8.
   Fexofenadine
   9. Guaifenesin-CODEINE Phosphate 10. Heparin 11. Hydrocortisone Cream
   1% 12. 13. 14. Ipratropium Bromide Neb
   15. LaMIVudine 16. Lactulose 17. Nephrocaps 18. Oxycodone-Acetaminophen
   19. Pantoprazole 20. Phytonadione
   21. Polyethylene Glycol 22. Raltegravir 23. Sarna Lotion 24. Sodium
   Chloride 0.9% Flush 25. Sodium Chloride 0.9% Flush
   26. Sulfameth/Trimethoprim DS 27. sevelamer HYDROCHLORIDE
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: no pain, no vomiting or coughing blood but minor
   nose bleed this morning that stopped spontaneously, no abdominal pain,
   no nausea, feels hungry
   Flowsheet Data as of  [**2113-8-21**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.7
C (96.2
   HR: 103 (93 - 107) bpm
   BP: 125/73(83) {96/61(45) - 144/84(98)} mmHg
   RR: 22 (12 - 24) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 69 kg (admission): 69.5 kg
   Height: 64 Inch
             Total In:
                                                                  1,940 mL
                                                                     62 mL
   PO:
                                                                  1,820 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    120 mL
                                                                     32 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,940 mL
                                                                     62 mL
   Respiratory support
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   Gen: NAD, oriented X2
   CV: tachycardic, RR, NL S1/S2 no murmurs
   Pulm: CTA b/l
   Abd: hyperactive BS, firm, umbilical hernia, no TTP, no HSM
   Ext: no tenderness to metatarsals, no edema
   Labs / Radiology
   117 K/uL
   8.5 g/dL
   79 mg/dL
   6.1 mg/dL
   26 mEq/L
   5.1 mEq/L
   43 mg/dL
   97 mEq/L
   134 mEq/L
   28.9 %
   5.5 K/uL
        [image002.jpg]
                             [**2113-8-16**]  01:58 AM
                             [**2113-8-17**]  01:51 AM
                             [**2113-8-18**]  02:34 AM
                             [**2113-8-19**]  03:18 AM
                             [**2113-8-19**]  02:12 PM
                             [**2113-8-19**]  09:04 PM
                             [**2113-8-20**]  02:45 AM
                             [**2113-8-20**]  07:11 AM
                             [**2113-8-20**]  03:55 PM
                             [**2113-8-21**]  05:11 AM
   WBC
   10.0
   6.5
   7.7
   5.6
   5.6
   5.9
   5.5
   Hct
   38.1
   33.9
   33.3
   28.8
   28.0
   27.8
   29.8
   30.5
   29.5
   28.9
   Plt
   122
   113
   110
   115
   104
   123
   117
   Cr
   5.4
   5.0
   6.0
   3.9
   5.2
   6.1
   Glucose
   94
   86
   113
   103
   81
   79
   Other labs: PT / PTT / INR:17.7/38.6/1.6, ALT / AST:3/44, Alk Phos / T
   Bili:57/1.9, Amylase / Lipase:1061/151, Differential-Neuts:77.3 %,
   Lymph:14.4 %, Mono:5.7 %, Eos:2.3 %, Lactic Acid:1.4 mmol/L,
   Albumin:2.5 g/dL, LDH:334 IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.9
   mg/dL
   Blood ctx [**8-15**] pending;all others final
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HEMOPTYSIS
 .H/O ANXIETY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 BACTEREMIA
   55 yo F with multiple medical problems including lymphocytic
   interstitial pneumonitis, pulmonary HTN, ESRD on HD, cardiomyopathy and
   emphysema on O2 at home, p/w right shoulder pain, months of progressive
   cough/SOB, fevers and found to have MSSA and septic arthritis of left
   wrist
   # GIB: Pt has had declining Hct and had a guiac positive melanotic
   stool [**8-19**] at ~2100hrs.  Pt was made NPO, ordered CBC, Coags, Cross
   x3units,  IV PPI [**Hospital1 **], and transfused 1 unit PRBC.  NG lavage was
   negative.
   - Cont to trend Hct, <1pt hct drop today-> recheck in pm
   - INR still elevated at 1.6; per GI fellow, this is fine for procedure
   for now
   - f/u GI recs today; likely endoscopy today or tomorrow; if tomorrow->
   put on diet and NPO after m/n
   - f/u final CT abd read
   - Transfuse PRN for falling Hct if drop 3-4points. (30.5 [**8-20**])
    # MSSA
 Now believed to be involving septic left wrist.
   - Treating with Cefazolin. s/p PICC. 6 week duration of therapy (D1=
   [**8-14**]). Also outpatient ID f/u with weekly CBC, CRP, ESR, LFTs, BMP.
   - f/u blood ctxs
   - dose Cefazolin 3G IV after HD.
   # Septic Left Wrist
s/p washout
   - continue sling/splint
   - dressing changes
   - OT consult
   - Pain well controlled with percocet
   #Elevate LFTs
   - Ordered CT protocol for pancreas to eval for pancreatitis given
   elevated [**Doctor First Name 429**]/Lip
   - Elevated amylase could be related to small bowel erosion.  This is
   supported by GIB.  F/u GI recs
   - Another cause could be HAART therapy- ask ID to reconsult given this
   possibility
   # CT suggestive of adrenal infarction: Endo stated that adrenal
   response normal, if relatively adrenal insufficient can try stress dose
   steroids without fluid bolus or pressors.
   -NTD
   #Hypotension: Possibly related to poor vasoregulation
   - Levophed off
   - Pts blood pressure has improved. However, it is difficult to tell if
   this is from midodrine or steroids. Now has been stable off of steroids
   and Midodrine
   - Will restart steroids if hypotensive
   - f/u renal if feels can restart anti-hypertensives given lability of
   BPs
   # Hemoptysis: Likely worsened by coagulopathy. No repeat episodes
   - Monitor symptoms
   # Tachycardia
   - it seems like pt has a baseline tachycardia
   - EKG
s show no acute changes
   - on metoprolol for rate control: holding for low BPs
    # Cough/SOB
   - continue ipratropium nebs.
   - pt. now stable on 4L (3L  home oxygen regimen)
   - will continue to monitor
   # ESRD
   - HD today
   - Renally dosing meds
   # Cardiomyopathy (EF 60%)
   - BB currently held
   - pt should be started on an ACE in future in consultation with PCP
   # Interstitial Pneumonitits/Pulmonary hypertension
   - will continue to hold sildenafil at this point [**3-6**] hypotension
   # Asthma/COPD
   - cont ipatropium as above; can restart albuterol if needed and HR
   stable, xopenex if tachycardic
   # HIV ([**2113-7-20**] CD4 257, VL <48)
   - last CD4 was 257; last viral load was <48
   - will continue HAART and bactrim for PCP [**Name Initial (PRE) 1374**]
    # HCV
   - not treated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2113-8-13**] 09:42 PM
   PICC Line - [**2113-8-16**] 04:59 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: IV PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: c/o.  CM aware of rehab need. PT/OT consult in